US08729095B2
To an acetonitrile solution (400 ml) of 2,5-dichloropyridin-3-ol (20.0 g) (Synthesis, 1990, 6, 499-501) and tert-butyl 2-bromo-2-methylpropionate (54.4 g) was added at room temperature potassium carbonate (30.3 g), followed by stirring for 12 hours under heating at reflux. The insolubles were filtered off, and washed with ethyl acetate. The filtrate was concentrated under reduced pressure, and then the residue was purified by silica gel chromatography to afford tert-butyl 2-[(2,5-dichloropyridin-3-yl)oxy]-2-methylpropionate (31.1 g).

reactant | 2,5-dichloropyridin-3-ol | 20.0 g | ClC1=NC=C(C=C1O)Cl | C5H3Cl2NO
reactant | tert-butyl 2-bromo-2-methylpropionate | 54.4 g | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
reactant | potassium carbonate | 30.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | tert-butyl 2-[(2,5-dichloropyridin-3-yl)oxy]-2-methylpropionate | 31.1 g | ClC1=NC=C(C=C1OC(C(=O)OC(C)(C)C)(C)C)Cl | C13H17Cl2NO3
